US06531502B1
A solution of 11.4 g of hydroxylamine hydrochloride in water (50 ml) was added to a solution of chloral hydrate (9.6 g) and sodium sulfate (83 g) in water (200 ml) at 60° C. The mixture was held at 60° C. while, in a separate flask, a solution of 4-anisidine (6.4 g) and concentrated hydrochloric acid (4.3 ml) in water (80 ml) was warmed to 80° C. The first solution was then added to the second and the reaction was refluxed for 2 minutes, cooled slowly to room temperature and then cooled in an ice bath. The tan precipitate which formed was collected by vacuum filtration, washed with water and dried under vacuum to give 8.6 g (85% yield) of N-(2-hydroximinoacetyl)-anisidine.

reactant | hydroxylamine hydrochloride | 11.4 g | Cl.NO
reactant | chloral hydrate | 9.6 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 83 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-anisidine | 6.4 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | hydrochloric acid | 4.3 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | water | 80 ml | O | H2O
product | N-(2-hydroximinoacetyl)-anisidine | 8.6 g, 85% yield | N(O)=CC(=O)NC1=CC=C(OC)C=C1 | C9H10N2O3
